US04582862
(B4) 1-[4-(2-Hydroxyethylthio)-phenyl]-2-methyl-2-morpholinopropan-1-one
20.1 g (0.075 mol) of 1-(4-chlorophenyl)-2-methyl-2-morpholinopropan-1-one and 6.45 g (0.0825 mol) of mercaptoethanol in 100 ml of dimethylformamide are warmed to 95° C. 20.7 g (0.15 mol) of anhydrous potassium carbonate are then added. The suspension is stirred at 95° C. until the starting compound can no longer be detected. The reaction mixture is cooled and water is poured over it, and the product is taken up in ether. The ether layer is washed with water, dried over Na2SO4 and concentrated. The resulting oil is purified over a drying column, and crystallises after a little time.

reactant | 1-(4-chlorophenyl)-2-methyl-2-morpholinopropan-1-one | 0.075 mol, 20.1 g | ClC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18ClNO2
reactant | mercaptoethanol | 0.0825 mol, 6.45 g | SC(C)O | C2H6OS
reactant | potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1-[4-(2-Hydroxyethylthio)-phenyl]-2-methyl-2-morpholinopropan-1-one | OCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C16H23NO3S
